*****************************************************************
* NXP PMV30XPEA
*
* Polarity P-Channel
* Ratings 20V/2.800000E-002OHMS/4.5A
*
* Date Created Thu Jun 15 02:01:50 2017
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PMV30XPEA DRAIN GATE SOURCE

LD DRAIN 5 1e-10
RLD2 DRAIN 5 0.251327412287183
RLD1 5 4 0.0006
LG GATE 1 7.97740315722523e-10
RLG GATE 1 2.00494009227702
LS SOURCE 8 1.04912866716067e-09
RLS2 SOURCE 8 2.63674793073793
RLS1 8 7 0.0149331714221117

RDS 7 4 4228329809.72516 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.016280253746168 TC=0.00655865058546379,-1.53948605080568E-05
RBD 9 4 0.0195202478846573 TC=0.00655865058546379,-1.53948605080568E-05
DBD 9 7 DBD

M1 3 2 6 6 MINT

RGS 2 6 4878048.7804878
CGS 2 6 1.06393e-09
RG 1 2 10.7426936571558

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    2 3 VALUE { V(13, 0)*I(V11) }
E11    12   0  2 3  1
E12    13   0  TABLE {V(12)}
+ -12	1470.3
+ -10	1474.44
+ -8	1478.02
+ -6	1480.36
+ -5	1480.54
+ -4	1479.53
+ -3	1476.11
+ -2	1465.26
+ -1	876.265
+ -0.5	661.058
+ -0.2	544.58
+ -0.1	541.675
+ 0	457.71062
+ 0.1	385.722
+ 0.2	385.39552
+ 0.5	329.46932
+ 1	267.55544
+ 2	216.08728
+ 3	195.39344
+ 4	182.5142
+ 5	173.13664
+ 6	165.99008
+ 8	155.60588
+ 10	148.1118
+ 12	142.27304
+ 15	135.48864
+ 16	133.49876
+ 20	127.3094



.MODEL MINT PMOS(Vto=-1.28845668910396 Kp=4.226778e+001 Nfs=297000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=25000)

.MODEL DBD D(Bv=26.6 Ibv=2.500000E-004 Rs=1E-6 Is=3.52011494381491e-12
+ N=1 M=0.44 VJ=0.52 Fc=0.5 Cjo=2.2472164e-10 Tt=1.85e-08)

.ENDS


